US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-(4-{3-[(aminocarbonyl)oxy]propoxy}benzyl)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate (321)
3-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)propyl 4-nitrophenyl carbonate was treated with concentrated ammonium hydroxide as described above to afford the title compound as a white solid. 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.2-1.3 (1H, m), 1.4 (1H, quintuplet), 1.9-2.0 (3H, m), 2.2 (1H, t), 2.6-2.8 (3H, m), 2.9 (1H, d), 2.97 (1H, dd), 3.2-3.3 (1H, m), 3.4-3.6 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 3.9 (2H, t), 4.0 (2H, t), 4.8 (1H, dt), 5.0 (1H, d), 5.5 (1H, d), 6.17 (2H, s), 6.4 (2H, br s), 6.78 (2H, d), 7.0-7.1 (3H, m), 7.2-7.3 (3H, m); MS: 694 (MH+)

reactant | 3-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)propyl 4-nitrophenyl carbonate | C(OCCCOC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C38H45N3O15S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-(4-{3-[(aminocarbonyl)oxy]propoxy}benzyl)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate | NC(=O)OCCCOC1=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC3=C(OCO3)C=C2)O)NC(O[C@H]2CO[C@H]3OCC[C@H]32)=O)C=C1 | C32H43N3O12S
